US05969137
To a solution of 4-isopropylphenylacetonitrile (2 g, 12.5 mmol) in anhydrous ether (50 mL) was added absolute ethanol (0.5 g, 12.5 mmol) and an excess of HCl gas was passed into the solution with cooling in an ice bath. The resulting solution was allowed to stir at 0° C. for 1.5 hours and at room temperature overnight. The white solid was collected by filtration, washed with ether (2×20 mL) and dried to give 2.52 g (84%) of 4-isopropylphenylacetimidate hydrochloride as white crystals, mp 118-120° C. A solution of ethylenediamine (1.25 g, 20 mmol) in absolute ethanol (5 mL) was added to a solution of the imidate hydrochloride (2.5 g, 10 mmol) in absolute ethanol (15 mL) cooled at ice-bath temperature. After stirring at 0° C. for 1 hour, the solution was heated at reflux for 20 minutes. The solvent was evaporated and the oily residue was washed with water (2×3 mL) and extracted with methylene chloride (3×15 mL). The solution was dried (MgSO4), filtered and evaporated under reduced pressure to afford 2 g of the free base of the title compound. A solution of the free base in anhydrous ether was treated with dry HCl gas. The crude salt was collected and recrystallized from ethanol/ether to give 1.95 g (79%) of the title compound as a white solid. mp 176-178° C.; Anal. C13H18N2.HCl: C, H, N.

reactant | 4-isopropylphenylacetonitrile | 12.5 mmol, 2 g | C(C)(C)C1=CC=C(C=C1)CC#N | C11H13N
reactant | ethanol | 12.5 mmol, 0.5 g | C(C)O | C2H6O
reactant | HCl | Cl | ClH
solvent | ether | 50 mL | CCOCC | C4H10O
product | 4-isopropylphenylacetimidate hydrochloride | 2.52 g, 84% | Cl.C(C)(C)C1=CC=C(C=C1)CC(O)=N | InChI=1S/C11H15NO.ClH/c1-8(2)10-5-3-9(4-6-10)7-11(12)13;/h3-6,8H,7H2,1-2H3,(H2,12,13);1H
